US04550981
The crude 2-chloro-4-[[(trans-4-heptylcyclohexyl)carbonyl]oxy]benzoic acid p-(chlorocarbonyl)phenyl ester obtained was dissolved in 70 ml of benzene and then added dropwise to a solution of 1.04 g of 3-chloro-4-nitrophenol in 50 ml of pyridine. The reaction mixture was stirred overnight at a bath temperature of 65° C., then poured into ice-cold dilute hydrochloric acid and extracted with diethyl ether. The extract was washed four times with 50 ml of 3N hydrochloric acid each time and once with 50 ml of 2N sodium carbonate solution, washed neutral with water, dried and concentrated. The crude 2-chloro-4-[[(trans-4-heptylcyclohexyl)carbonyl]oxy]benzoic acid p-[(3-chloro-4-nitrophenoxy)carbonyl]phenyl ester (3.2 g) obtained was chromatographed on silica gel with hexane/dioxan (volume ratio 3:1). The fractions which were pure according to thin-layer chromatography (1.8 g) were recrystallized twice from ethyl acetate; m.p. (C-N) 138° C., cl.p. (N-I) 237.5° C.

reactant | 2-chloro-4-[[(trans-4-heptylcyclohexyl)carbonyl]oxy]benzoic acid p-(chlorocarbonyl)phenyl ester | ClC(=O)C1=CC=C(C=C1)OC(C1=C(C=C(C=C1)OC(=O)[C@@H]1CC[C@H](CC1)CCCCCCC)Cl)=O | C28H32Cl2O5
reactant | 3-chloro-4-nitrophenol | 1.04 g | ClC=1C=C(C=CC1[N+](=O)[O-])O | C6H4ClNO3
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-chloro-4-[[(trans-4-heptylcyclohexyl)carbonyl]oxy]benzoic acid p-[(3-chloro-4-nitrophenoxy)carbonyl]phenyl ester | 3.2 g | ClC=1C=C(OC(=O)C2=CC=C(C=C2)OC(C2=C(C=C(C=C2)OC(=O)[C@@H]2CC[C@H](CC2)CCCCCCC)Cl)=O)C=CC1[N+](=O)[O-] | C34H35Cl2NO8
